US05304685
125 g (1 mol) of 80% strength aqueous 2,2-dimethyl-3-hydroxypropanal (crude mixture from the synthesis, reduced to a water content of 20% by distillation), 109 g (0.9 mol) of 2,4-dimethylphenol, 24 g (0.22 mol) of 40% strength aqueous dimethylamine and 700 g of methanol are reacted in a stirred autoclave under autogenous pressure of 20-30 bar at 160° C. for 20 h and then at 180° C. for 20 h. After the autoclave has cooled and the pressure has been released, 95 g of Raney Ni (0.1 parts based on complete mixture) are added to the reaction mixture and hydrogenation is carried out at 140° C. under 80 bar of hydrogen for 20 h. After filtration and removal of volatiles by distillation, the residue is recrystallized from methanol/water 10:3. 112 g (60%) of 3-(3,5-dimethyl-2-hydroxyphenyl)-2,2-dimethylpropanol are obtained (melting point 117° C.).

reactant | 2,2-dimethyl-3-hydroxypropanal | CC(C=O)(CO)C | C5H10O2
reactant | 2,4-dimethylphenol | 0.9 mol, 109 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
catalyst | Ni | [Ni] | Ni
solvent | methanol | 700 g | CO | CH4O
solvent | water | O | H2O
product | 3-(3,5-dimethyl-2-hydroxyphenyl)-2,2-dimethylpropanol | 112 g, 60% | CC=1C(=C(C=C(C1)C)CC(CO)(C)C)O | C13H20O2
